US05114966
2-(RS)-ethyl-2,3-dihydro-5-hydroxy-4,6,7-trimethyl-benzofurane
The de-benzylization of the 2-(RS)-ethyl-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane is done by following the procedure given in example 15. A white solid is obtained. m.p. 73°-75° C.; IR (KBr): 3378 cm-1 (νOH); 1H-NMR (CDCl3): δ4.9-4.5 (1H,m), 4.2 (1H,s), 3.3-2.7 (2H,m), 2.1 (6H,s), 2.0 (3H,s), 1.8- 1.5 (2H,m), 1.1 (3H,t).

reactant | 2-(RS)-ethyl-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane | C(C)C1OC2=C(C1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C | C20H24O2
reactant | KBr | [K+].[Br-]
product | 2-(RS)-ethyl-2,3-dihydro-5-hydroxy-4,6,7-trimethyl-benzofurane | C(C)C1OC2=C(C1)C(=C(C(=C2C)C)O)C | C13H18O2
